US06759414B2
C. N-(5-Chloropyridin-2-yl)-2-[[1-(1-Boc-piperidin-4-yl)-ethyl]amino]-4-methoxycarbonylbenzamide
Using a similar procedure to that described in Example 47-C, 2-amino-N-(5-chloropyridin-2-yl)-4-methoxycarbonylbenzamide (2.7 g, 8.8 mmol) and 1-(tert-butoxycarbonyl)-piperidine-4-acetaldehyde (3.0 g, 13 mmol) afforded, after trituration with EtOAc:methylene chloride, 2.8 g (61%) of the title compound.

reactant | 2-amino-N-(5-chloropyridin-2-yl)-4-methoxycarbonylbenzamide | 8.8 mmol, 2.7 g | NC1=C(C(=O)NC2=NC=C(C=C2)Cl)C=CC(=C1)C(=O)OC | C14H12ClN3O3
reactant | 1-(tert-butoxycarbonyl)-piperidine-4-acetaldehyde | 13 mmol, 3.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CC=O | C12H21NO3
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-(5-Chloropyridin-2-yl)-2-[[1-(1-Boc-piperidin-4-yl)-ethyl]amino]-4-methoxycarbonylbenzamide | 2.8 g, 61% | ClC=1C=CC(=NC1)NC(C1=C(C=C(C=C1)C(=O)OC)NC(C)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C26H33ClN4O5
